US04356121
59.4 g (1.484 moles) of sodium hydroxide are dissolved in 370 ml of water and the solution is cooled to 0° C. To this solution are added 13.2 g (0.742 mole) of cyanamide in portions. Then 115 g (0.742 mole) of δ-chlorovaleryl chloride are added dropwise, at 0°-8° C., over 1 hour to the clear, colourless cyanamide solution. The ensuing reaction is strongly exothermic, so that intensive cooling is necessary. When the dropwise addition is complete, the mixture is stirred for 1 hour at 0° C. Then 740 ml of methylene chloride are added and the reaction mixture is subsequently warmed for 1 hour to reflux temperature (40° C.). The two phases are separated in a separating funnel. The aqueous phase is extracted once more with 740 ml of methylene chloride. The combined organic phases are dried over sodium sulfate, filtered, and the solvent is removed in a water jet vacuum. Yield: 79.6 g (86.4% of theory). The crude product is a pale yellowish liquid which, according to gas chromatographic analysis, contains 79.95% of N-cyanopiperidone. An isomer is not detected. High vacuum distillation of the crude product yields 44 g (47.8% of theory) of N-cyanopiperidone as a pale yellowish liquid with a boiling point of 125° C./13.3 Pa. Gas chromatographic analysis shows the product to be 99.19% pure.

reactant | sodium hydroxide | 1.484 moles, 59.4 g | [OH-].[Na+]
reactant | cyanamide | 0.742 mole, 13.2 g | N#CN | CH2N2
reactant | δ-chlorovaleryl chloride | 0.742 mole, 115 g | ClCCCCC(=O)Cl | C5H8Cl2O
reactant | methylene chloride | 740 ml | C(Cl)Cl | CH2Cl2
solvent | water | 370 ml | O | H2O
product | N-cyanopiperidone | 44 g, 47.8% | C(#N)N1C(CCCC1)=O | C6H8N2O
